US05262385
0.4 g (2.7 mmol) of 1-fluoro-2-methoxy-1-cyclopentanecarboxylic acid in cis form (compound number 12a) disclosed in Example 12 and 0.27 g (2.7 mmol) of triethylamine were dissolved in 10 ml of tetrahydrofuran, and the solution was cooled to 0° C. 0.29 g (2.7 mmol) of ethyl chlorocarbonate was added dropwise, the mixture was stirred at 0° C. for 1 hour, 0.24 g (3.2 mmol) of tertiary butylamine was add, and the mixture was further stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ether, and the extract was washed with saturated saline. The ether layer was dried over anhydrous magnesium sulfate, and the solvent was distilled away to obtain 0.3 g (yield: 55%) of the objective 1-fluoro-2-methoxy-1-cyclopentanecarboxylic acid tertiary butylamide in cis form (compound number 29a).

reactant | 1-fluoro-2-methoxy-1-cyclopentanecarboxylic acid | 2.7 mmol, 0.4 g | FC1(C(CCC1)OC)C(=O)O | C7H11FO3
reactant | triethylamine | 2.7 mmol, 0.27 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.7 mmol, 0.29 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | tertiary butylamine | 3.2 mmol, 0.24 g | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-fluoro-2-methoxy-1-cyclopentanecarboxylic acid tertiary butylamide | 0.3 g, yield: 55% | C(C)(C)(C)NC(=O)C1(C(CCC1)OC)F | C11H20FNO2
